US04797401
(B) 1-(3-Fluoro-4-nitrophenyl)piperazine hydrochloride
1-Acetyl-4-(3-fluoro-4-nitrophenyl)piperazine (1.08 g), and 2N hydrochloric acid (20 ml) were refluxed for 30 minutes. The solution was then evaporated to dryness, the residue triturated with methanol, the whole re-evaporated to remove hydrochloric acid, and the residue crystallized from methanol/ethanol, yielding the title compound, (0.78 g), m.p. 271°-3°.

reactant | 1-Acetyl-4-(3-fluoro-4-nitrophenyl)piperazine | 1.08 g | C(C)(=O)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])F | C12H14FN3O3
reactant | hydrochloric acid | 2N, 20 ml | Cl | ClH
product | 1-(3-Fluoro-4-nitrophenyl)piperazine hydrochloride | 0.78 g | Cl.FC=1C=C(C=CC1[N+](=O)[O-])N1CCNCC1 | InChI=1S/C10H12FN3O2.ClH/c11-9-7-8(1-2-10(9)14(15)16)13-5-3-12-4-6-13;/h1-2,7,12H,3-6H2;1H
